US07615651B2
Preparation of [2′-methyl-4′-(4H-[1,2,4]-triazol-3-yl)-biphenyl-4-ylmethyl]-(3-methyl-butyl)-amine hydrochloride (E7-01)
(4′-{[1-Dimethylamino-methylidene]-carbamoyl}-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-7a-1: 222 mg, 0.477 mmol) was dissolved in acetic acid (5 ml) and treated with hydrazine monohydrate (0.035 ml, 0.715 mmol). After the reaction mixture was heated at 90° C. for 2 hours, the volatiles were removed and the residue was taken up in ethyl acetate and washed with a saturated aqueous sodium bicarbonate solution. The organic phase was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified using preparative thin layer chromatography eluting with 50% ethyl acetate in hexanes. The product-containing band was isolated and extracted, and the extracts were concentrated under reduced pressure to afford a residue. The residue was dissolved in methanol and treated with 4M HCl in dioxane. After 2 hours, the volatiles were removed under reduced pressure and the resulting solid triturated with hexanes to provide a suspension. The solid was isolated by filtration to afford the title compound (E7-01) as a colorless solid.

reactant | (4′-{[1-Dimethylamino-methylidene]-carbamoyl}-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 0.477 mmol, 222 mg | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC=C(C=C1)C1=C(C=C(C=C1)C(N=CN(C)C)=O)C)=O | C28H39N3O3
reactant | hydrazine monohydrate | 0.715 mmol, 0.035 ml | O.NN
reactant | HCl | 4M | Cl | ClH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [2′-methyl-4′-(4H-[1,2,4]-triazol-3-yl)-biphenyl-4-ylmethyl]-(3-methyl-butyl)-amine hydrochloride | Cl.CC1=C(C=CC(=C1)C1=NN=CN1)C1=CC=C(C=C1)CNCCC(C)C | InChI=1S/C21H26N4.ClH/c1-15(2)10-11-22-13-17-4-6-18(7-5-17)20-9-8-19(12-16(20)3)21-23-14-24-25-21;/h4-9,12,14-15,22H,10-11,13H2,1-3H3,(H,23,24,25);1H
